US06514968B1
Preparation 37 2-[(9-Benzyl-6-methyl-9H-carbazol-4-yl)oxy]acetonitrile
A mixture 9-benzyl-6-methyl-9H-carbazol-4-ol (1.4172 g, 0.0049 mol), potassium carbonate (0.8184 g, 0.0059 mol), bromoacetonitrile (0.75mL, 0.011 mol) and DMF (18 mL) is stirred at room temperature for 3 h. The mixture is then partitioned between water and dichloromethane and the combined organic layers are dried over sodium sulfate and concentrated to a residue. Water is added to the residue and solids precipitated. The solids are collected by filtration and washed with water, followed by a little hexane, and then vacuum dried at room temperature. The solids are chromatographed on silica gel (150 mL) using dichloromethane (100%) to give 1.4723 g (91%) of the title compound. An aliquot is recrystallized from ethyl acetate/hexane, chromatographed on silica gel (50 mL) using ethyl acetate/hexane (20/80) and then recrystallized again from ethyl acetate/dichloromethane/hexane; mp 188-188.25° C.; MS (ESI+) for C22H18N2O m/z 327.2 (M+H)+; IR (drift) 1497, 1467, 1447, 1365, 1340, 1305, 1264, 1237, 1152, 1126, 1053, 799, 781, 754, 711 cm−; 1H NMR (CDCl3) δ2.54, 5.06, 5.49, 6.73, 7.10, 7.25, 7.36, 8.10. Anal. Calcd for C22H18N2O: C, 80.96; H, 5.56; N, 8.58. Found: C, 80.62; H, 5.68; N, 8.55.

reactant | 9-benzyl-6-methyl-9H-carbazol-4-ol | 0.0049 mol, 1.4172 g | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)O)C | C20H17NO
reactant | potassium carbonate | 0.0059 mol, 0.8184 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 0.011 mol, 0.75mL | BrCC#N | C2H2BrN
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
product | 2-[(9-Benzyl-6-methyl-9H-carbazol-4-yl)oxy]acetonitrile | 1.4723 g, 91% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(=CC=CC12)OCC#N)C | C22H18N2O
